US08530503B2
3-(indolin-5-yl)-5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazole
To a stirred solution of 3-(1H-indol-5-yl)-5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazole (40 mg, 0.097 mmol) in acetic acid at 12-14° C. was added slowly sodium cyanoborohydride (19 mg, 0.29 mmol). At the end of the addition the reaction was allowed to warm to 18-20° C. and was stirred for 2 h. After completion the reaction mixture was neutralized with 50% sodium hydroxide and extracted with ethyl acetate (50 ml×2). The organic layers were combined and dried over Na2SO4 and removed under reduced pressure. The crude indoline compound was purified by column chromatography using CH2Cl2/MeOH (9:1) to offer the product in 84.3% yield (33.8 mg, 0.082 mmol). MS (EI) m/z: 414 (M+)

reactant | 3-(1H-indol-5-yl)-5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazole | 0.097 mmol, 40 mg | N1C=CC2=CC(=CC=C12)C1=NOC(=N1)C=1SC(=C(C1)C1=CC=CC=C1)C(F)(F)F | C21H12F3N3OS
reactant | sodium cyanoborohydride | 0.29 mmol, 19 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(indolin-5-yl)-5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazole | 84.3% yield | N1CCC2=CC(=CC=C12)C1=NOC(=N1)C=1SC(=C(C1)C1=CC=CC=C1)C(F)(F)F | C21H14F3N3OS
